US07235559B1
10% Palladium on carbon (25 mg, 0.024 mmol) was added to a stirred suspension of 1-(4-cyanophenyl)-4-(5-nitropyridin-2-yl)-piperazine (150 mg, 0.48 mmol) in ethanol (50 ml) at ambient temperature and the reaction stirred for 6 hours under an atmosphere of hydrogen. The reaction was filtered through a pad of celite and the solvent evaporated in vacuo. Purification by flash chromatography on alumina, eluting with 0.5% methanol in dichloromethane yielded 1-(4-cyanophenyl)-4-(5-aminopyridin-2-yl)piperazine (100 mg, 74% yield):

reactant | 1-(4-cyanophenyl)-4-(5-nitropyridin-2-yl)-piperazine | 0.48 mmol, 150 mg | C(#N)C1=CC=C(C=C1)N1CCN(CC1)C1=NC=C(C=C1)[N+](=O)[O-] | C16H15N5O2
catalyst | Palladium on carbon | 0.024 mmol, 25 mg | [Pd] | Pd
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-(4-cyanophenyl)-4-(5-aminopyridin-2-yl)piperazine | 100 mg, 74% yield | C(#N)C1=CC=C(C=C1)N1CCN(CC1)C1=NC=C(C=C1)N | C16H17N5
